US05248782
2-(Pyrrol-2-yl)benzothiazole
A mixture of 5.55 g (50 mmol) of pyrrole-2-carboxylic acid, 6.26 g (50 mmol) of 2-aminothiophenol and 3.09 g (50 mmol) of boric acid in 250 mL of xylene was heated under reflux for 3 days while removing water which was generated from reaction using a Dean-Stark trap. the cooled reaction mixture was diluted with 200 mL of ethyl acetate, washed with 200 mL of 5% sodium hydroxide solution and then with 200 mL of water. The separated organic layer was dried over anhydrous sodium sulfate. The resulting crude product was purified by column chromatography on silica gel with 10% ethyl acetate in hexane as eluant. The desired product, 2-(pyrrol-2-yl)benzothiazole (1.40 g, 14%) was obtained as a pale yellow solid. m.p. 150°-151° C.; 1H-NMR (CDCl3) 6.32-6.35 (m, 1H, ArH), 6.87-6.89 (m, 1H, ArH), 6.94-6.96 (m, 1H, ArH), 6.33 (t, 1H, ArH), 6.43 (t, 1H, ArH), 7.84 (d, 1H, ArH), 7.90 (d, 1H, ArH).

reactant | pyrrole-2-carboxylic acid | 50 mmol, 5.55 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | 2-aminothiophenol | 50 mmol, 6.26 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | boric acid | 50 mmol, 3.09 g | B(O)(O)O | BH3O3
solvent | xylene | 250 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(pyrrol-2-yl)benzothiazole | 1.40 g, 14% | N1C(=CC=C1)C=1SC2=C(N1)C=CC=C2 | C11H8N2S
